US08017602B2
Step iii) N-Cyclohexyl-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)-N-(2-oxoethyl)propanamide
A solution of N-cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide (50.3 g) in tetrahydrofuran (150.9 mL) was added to a solution of p-toluenesulfonic acid monohydrate (86.3 g) in tetrahydrofuran (100.1 mL) at 20° C. to give a solution. A line wash of tetrahydrofuran (50.3 mL) was then added and the solution stirred at ambient temperature for 1 h before being added to a solution of sodium hydroxide (19.6 g) and sodium chloride (100.6 g) in water (502.9 mL) at 5° C. A line wash of tetrahydrofuran (25.1 mL) was then added and the solution warmed to 20° C. 1-Butanol (100.6 mL) was added and the layers separated. The separated organic layer can be evaporated to dryness to afford the sub-titled compound as an orange/brown oil or the solution used directly in the next Step. MS [M+H]+=398.2 (MultiMode+)

reactant | N-cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 50.3 g | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C)=O)CC(OC)OC | C25H37N3O4
reactant | p-toluenesulfonic acid monohydrate | 86.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | tetrahydrofuran | 150.9 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100.1 mL | O1CCCC1 | C4H8O
product | N-Cyclohexyl-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)-N-(2-oxoethyl)propanamide | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C)=O)CC=O | C23H31N3O3
